2155-05-14 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2155-5-13**] 11:09 AM
 ARTERIAL LINE - START [**2155-5-13**] 03:03 PM
 NASAL SWAB - At [**2155-5-13**] 03:17 PM
   flu swab
 SPUTUM CULTURE - At [**2155-5-13**] 09:23 PM
   [**2155-5-13**]
   - CT Torso:
   1. There is dilatation and distention of the esophagus around a gastric
   tube. Given the extensive inflammatory change in the right middle lobe
   in particular, aspiration must be considered.
   2. Compared to the most recent cross-sectional study, the CT
   examination of [**2155-4-16**] there has been interval mild progression of
   ascites and bilateral pleural effusions.
   3. Diffuse small bowel dilatation is identified. There is no evidence
   of pneumatosis nor of a transition point. In the colon there Appears to
   be pancolitis and C-Diff is suspected.
   4. Pancreatic lesions, likely cyst or pseudocyst cysts and unchanged
   from prior MR examination.
   5. There is no evidence of vascular abnormality outside the varices and
   portal hypertension. The portal vein appears relatively [**Name2 (NI) 6719**], but
   unchanged from multiple prior cross-sectional imaging studies. SMV,
   SMA, celiac vessels all appears patent.
   - A-line placed and lactate treded down slowly.
   - U/S guided paracentesis for AM of [**5-14**]
   - ID recs: 1) Send C. diff, daily bl cx, sputum cx, Fungal cx, Nasal
   flu, Urine legionella.  2) Hold HAART meds as they may contribute to
   lactic acidosis.  3) Added azithro for atypical coverage.
   Allergies:
   Sulfa (Sulfonamides)
   Fever/Chills;
   Last dose of Antibiotics:
   Fluconazole - [**2155-5-13**] 02:00 PM
   Vancomycin - [**2155-5-13**] 08:19 PM
   Metronidazole - [**2155-5-13**] 10:12 PM
   Azithromycin - [**2155-5-13**] 11:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-5-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-14**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 86 (78 - 102) bpm
   BP: 100/56(69) {88/53(0) - 114/67(81)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 61.4 kg
   Height: 72 Inch
             Total In:
                                                                  9,324 mL
                                                                  1,044 mL
   PO:
             TF:
   IVF:
                                                                  2,664 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    905 mL
   Urine:
                                                                  1,210 mL
                                                                    530 mL
   NG:
                                                                    300 mL
   Stool:
                                                                    160 mL
                                                                    375 mL
   Drains:
   Balance:
                                                                  7,564 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Venti mask
   SpO2: 100%
   ABG: 7.51/29/137/22/1
                                                                [**2155-5-14**]
                                                                    06:08a
   _______________________________________________________________________
                                     pH
                                    7.50
                                    pCO2
                                     26
                                     pO2
                                     103
                                    HCO3
                                     21
                                   BaseXS
                                      0
   Type:Art
   K:3.4
   Glu:55
   freeCa:1.06
   Lactate:5.1
   Physical Examination
   GEN: cachectic with protuberant abdomen, somnolent, NAD
   HEENT: NRB, MMM
   CV: RRR, No M/R/G
   PULM: Diminished breath sounds throughout, Absent at R base
   ABD: somewhat firm and tender, but no rebound
   EXTR: muscular wasting, no edema, pulses 2+
   NEURO: PERRL, EOMI, somnolent AOx2, moving all extremities equally.
   Labs / Radiology
   82 K/uL
   9.2 g/dL
   82 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   27.3 %
   19.3 K/uL
        [image002.jpg]
                             [**2155-5-13**]  12:59 PM
                             [**2155-5-13**]  01:00 PM
                             [**2155-5-13**]  11:13 PM
                             [**2155-5-14**]  03:43 AM
                             [**2155-5-14**]  04:08 AM
   WBC
   27.5
   19.3
   Hct
   33.9
   27.3
   Plt
   95
   82
   Cr
   1.0
   1.0
   TropT
   <0.01
   TCO2
   17
   24
   Glucose
   36
   65
   83
   82
   Other labs: PT / PTT / INR:32.1/78.8/3.2, CK / CKMB /
   Troponin-T:133/5/<0.01, ALT / AST:13/44, Alk Phos / T Bili:51/3.4,
   Amylase / Lipase:/9, Lactic Acid:5.6 mmol/L, Albumin:1.8 g/dL, Ca++:8.2
   mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   PT: 32.1
   PTT: 78.8
   INR: 3.2
   ALT: 13
   AP: 51
   Tbili: 3.4
   Alb:
   AST: 44
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   C diff
 Negative
   Sputum
 Cancelled for >10 epithelial cells/100X field
   Urine Legionella
 negative
   Blood Cx and fungal Cx pending
   CT Torso:
   See 24hr events above.
   Assessment and Plan
   53M with HIV/hepC, admitted with nausea, weakness, hypotension.
   .
   # weakness/atered mental status - no focal neurologic deficits, and no
   witnessed seizure activity at home.  has some tremor, but no frank
   asterixis.  most concerning for infection given his distended abdomen,
   and leukocytosis, with pulmonary and abdominal sources most
   concerning.  no evidence of meningitis now.
   - continue lactulose, rifaximin.
   - seizure precautions.
   - check ucx, bcx, stool cx with cdiff.
   - d/w liver service how/when to pursue diagnostic paracentesis -> usn
   guided paracentesis.
   - check serum/urine tox screen.
   - continue vanc/zosyn empirically for presumed abdominal/pulmonary
   source, and add flagyl.
   - consider CT A/P to evaluate for abdominal source given lactate of 8,
   though may be [**12-30**] HIV meds.
   .
   # hypoxia - pt presents with cough, though not frankly hypoxic upon
   arrival to ED, with worsening hypoxia in setting of aggressive fluid
   repletion.  CXR prior to fluids, at 6am showed chronic bilateral
   pleural effusions, though R>>L, with ?RLL infiltrate.  his story is
   concerning for RLL pneumonia, and possibly aspiration given his recent
   vomitting, but must also consider opportunitistic infections given his
   HIV (though typically occur with CD4<200) and empyema given his fluid
   collection.
   - repeat CXR now.
   - DFA to r/o flu.
   - continue vanc/zosyn.
   - ID consult as above.
   - discuss utility of tapping RLL effusion, though seems moderate sized,
   and could try diuretics first (though h/o bumping creatinine in this
   setting, and recent hypotension), but could r/o empyema also given
   leukocytosis. (will need FFP prior to [**Female First Name (un) 231**]).
   - consider CTA of CHEST with CT A/P above to r/o PE and evaluate RLL
   effusion.
   .
   # lactate - no prior lactate's in OMR, and although HIV meds can raise
   lactate (abacavir, lamivudine -> neutral [**First Name8 (NamePattern2) 24**] [**Doctor Last Name **], tenofovir -> not [**First Name8 (NamePattern2) 24**]
   [**Doctor Last Name **]), current overall picture is concerning for sepsis based on
   leukocytosis, and hypotension, with failure to improve lactate after 6L
   IVF.
   - trend lactate Q6H.
   - follow UOP closely.
   - d/w ID value of holding HIV meds in setting of acute illness with
   rising lactate.
   - ID consult re how to manage HIV meds (will hold for now), sepsis.
   - consider ct abd/pelvis given lack of clear source, to look for
   evidence of ischemic colitis, abcess.
   .
   # ?seizure - unclear history of bowel/bladder incontinence which is new
   for patient, though he wears depends at baseline.  no focal neurologic
   deficits presently, but hypoglycemia may have contributed.
   - seizure precautions.
   - follow finger sticks closley.
   - consider CT HEAD.
   - treat with D5W + 3amps bicarb @ 100cc/hr.
   .
   # hypoglycemia - likely [**12-30**] septic picture.
   - bolus with D5W + 3amps bicarb prior to CT scan.
   - continue D5W as above.
   - check FSBS QID.
   .
   # leukocytosis - new leukocytosis, with bandemia.  would look for
   infection as above.  he did have an episode of hypoglycemia in ED,
   which presumably is [**12-30**] septic physiology, and is without h/o DM to
   suggest DKA.
   - check cultures as above.
   - CT TORSO to evaluate for PNA, and abdominal source.
   .
   # ESLD - [**12-30**] hepC, h/o encephalopathy, +varices, no h/o SBP, HRS.  off
   of transplant list [**12-30**] pHTN. albumin 2.6.  MELD 23.
   - liver consult.
   - continue lactulose/rifaximin.
   - hold propanalol given hypotension.
   - discuss diuretics with liver team as apparently poor response in the
   past, will hold off for now given hypotension.
   .
   # metabolic acidosis - gap 16, lactate 8.0, with trace ketones in
   urine, and hypoglycemia in ED.  DKA therefore unlikely.  his picture is
   more concerning for septic picture, with some possible contribution
   from starvation ketosis.
   - trend CHEM7 in PM.
   - trend lactate.
   - check ABG/VBG now.
   - give bicarb as above, for CT torso.
   .
   # ARF - baseline cre 0.9, now 1.2, so he is above his baseline.  at
   elevated risk for volume depletion, AIN (abx at last admission), ATN,
   and HRS.
   - check urine lytes now as he has received 5L IVF in ED.
   - consider albumin.
   - give bicarb, and mucomyst for CTA.
   - trend creatinine.
   .
   # HIV - CD4 300s, VL undetectable.  concern for elevated lactate [**12-30**]
   HIV meds.  should also consider opportunistic pathogens.
   - hold home regimen for now.
   - ID consult as above.
   .
   # pulmonary HTN - not yet on sildenafil as outpatient.
   .
   # FEN: continue tube feeds, megace. compazine/zofran prn.
   # Prophylaxis: pneumoboots, outpatient ppi (switch to lansoprazole).
   # Access: PIVx2, consider TLC CVL, and a-line if hypotensive.
   # Code: FULL
   # Communication: Patient, partner [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 6703**] (hcp) [**Telephone/Fax (1) 6704**]
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-5-13**] 11:01 AM
   20 Gauge - [**2155-5-13**] 11:01 AM
   Arterial Line - [**2155-5-13**] 03:03 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2155-05-15 04:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2 units FFP given prior to paracentesis, which was not c/w SBP by
   cell count (3650 RBC, 188 WBC, 19% polys); gram stain with 2+ PMLs but
   no microorg.
   - Azithromycin discontinued as urine legionella Ag neg.
   - Droplet precautions discontinued as flu swab neg.
   - Seen by ID who recommended repeating C. diff, stool cx, serum CMV VL,
   then proceed with thoracentesis if those negative.
   - TFs started as well as D5 NS drip for low-running FSBS (104->87->122)
   - PICC line placed. A-line fell out.
   - Lactate decreased to 3.7
   - Hct trended down 34 -> 27 -> 25 yesterday so hemolysis labs sent.
   Unable to interpret as sample hemolyzed but no schistocytes reported on
   smear. Guaiac neg. AM Hct stable.
   Allergies:
   Sulfa (Sulfonamides)
   Fever/Chills;
   Last dose of Antibiotics:
   Fluconazole - [**2155-5-13**] 02:00 PM
   Azithromycin - [**2155-5-13**] 11:12 PM
   Vancomycin - [**2155-5-14**] 07:45 PM
   Metronidazole - [**2155-5-14**] 10:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-5-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2155-5-14**] 06:30 AM
   Heparin Sodium (Prophylaxis) - [**2155-5-15**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-5-15**] 04:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 76 (73 - 92) bpm
   BP: 93/61(69) {89/50(62) - 128/77(158)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.8 kg (admission): 61.4 kg
   Height: 72 Inch
             Total In:
                                                                  5,354 mL
                                                                    761 mL
   PO:
             TF:
                                                                     55 mL
                                                                     85 mL
   IVF:
                                                                  3,406 mL
                                                                    676 mL
   Blood products:
                                                                  1,137 mL
   Total out:
                                                                  2,860 mL
                                                                    285 mL
   Urine:
                                                                  1,460 mL
                                                                    285 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
                                                                    800 mL
   Balance:
                                                                  2,494 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 93%
   ABG: 7.50/26/103/26/0
   Physical Examination
   GEN: Cachectic with protuberant abdomen, NAD
   HEENT: MMM
   CV: RRR, No M/R/G
   PULM: bibasilar crackles
   ABD: somewhat firm and tender bilaterally in lower quadrants, but no
   rebound
   EXTR: muscular wasting, 1+ edema, pulses 2+
   NEURO: PERRL, EOMI, AOx3, moving all extremities equally.
   Labs / Radiology
   72 K/uL
   9.0 g/dL
   107 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   15 mg/dL
   109 mEq/L
   140 mEq/L
   27.3 %
   13.0 K/uL
        [image002.jpg]
                             [**2155-5-13**]  12:59 PM
                             [**2155-5-13**]  01:00 PM
                             [**2155-5-13**]  11:13 PM
                             [**2155-5-14**]  03:43 AM
                             [**2155-5-14**]  04:08 AM
                             [**2155-5-14**]  06:08 AM
                             [**2155-5-14**]  04:26 PM
                             [**2155-5-15**]  03:04 AM
   WBC
   27.5
   19.3
   13.9
   13.0
   Hct
   33.9
   27.3
   25.1
   27.3
   Plt
   95
   82
   73
   72
   Cr
   1.0
   1.0
   0.8
   0.8
   TropT
   <0.01
   TCO2
   17
   24
   21
   Glucose
   36
   65
   83
   82
   55
   87
   107
   Other labs: PT / PTT / INR:24.8/53.9/2.4, ALT / AST:13/36, Alk Phos / T
   Bili:51/3.1, Hapto <20 and FDP 10-40 on hemolyzed sample;
   Fibrinogen:207 mg/dL, Lactic Acid:3.7 mmol/L, Albumin:1.8 g/dL, LDH:457
   IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL.
   Micro: [**5-13**] UCx neg. [**Date range (1) 6738**] BCx NGTD.[**5-15**] Fungal BCx NGTD.  [**5-13**]
   Sputum cx contaminated sample. [**5-14**] RRVA screen: Neg. Resp viral cx:
   Pending. [**5-14**] Peritoneal fluid: Gram stain per o/n events; cx pending.
   [**5-13**] C. diff neg. [**5-14**] C. diff pending. [**5-14**] CMV viral load: Pending.
   Assessment and Plan
   53M with HIV/HCV admitted with nausea, weakness, and hypotension.
   # Sepsis/altered mental status: No focal neurologic deficits, and no
   witnessed seizure activity at home.  Continues to have mild tremor, but
   no frank asterixis.  Most concerning for infection given his distended
   abdomen, leukocytosis, and colitis seen on imaging; also question of
   pneumonia (?aspiration).  Has maintained pressures with IVF overnight.
   - Appreciate ID input; f/u recs
   - F/u Bcx, peritoneal fluid cx, resp viral cx, stool cx with C. diff,
   CMV viral load
   - Resend sputum cx
   - Azithromycin discontinued as legionella neg.
   - Continue vanc/zosyn/flagyl empirically for presumed c diff/pulmonary
   source
   - Consider thoracentesis but if above negative but less likely
   infectious source
   - Continue rifaximin and lactulose when diarrhea resolves for possible
   encephalopathy complicating picture.
   - Seizure precautions.
   # Hypoxia: Presented with cough with worsening hypoxia in setting of
   aggressive fluid repletion.  CT chest with substantial pleural effusion
   and compressive atelectasis v. pneumonia (less likely but most
   concerning for aspiration by hx). Viral Ag screen negative. Continues
   to required O2 supplementation
   - Wean O2 as able
   - Continue vanc/zosyn for now
   - Resend sputum cx, f/u resp viral cx
   - F/u ID recs
   - Pleural effusion less likely empyema; may consider thoracentesis for
   therapeutic v. diagnostic value.
   # Elevated lactate: CT abd without evidence of ischemia. [**Month (only) 11**] have
   regional hypoperfusion v. [**12-30**] liver failure or sepsis. HIV meds can
   also raise lactate (per Dr. [**Last Name (STitle) 980**], abacavir and lamivudine neutral; not
   tenofovir). Slowly trending down after 9 L IVF on night of admission.
   Lingering lactate likely related to ESLD
   - Trend lactate
   - Follow UOP closely.
   - Hold HAART for now
   - F/u ID recs for sepsis.
   # Hypoglycemia: Likely [**12-30**] septic picture and possibly complicated by
   ESLD.
   - D5/NS IV fluids
 decrease to 50 cc/hr and wean as FSBG tolerates
   - Check FSBS QID
   # ESLD: [**12-30**] HCV with h/o encephalopathy with varices but no h/o SBP or
   HRS.  Off transplant list [**12-30**] pHTN. Albumin 2.6.  MELD 23.
   - F/u Liver recs
   - Cont rifaximin; resume lactulose when loose stools resolved
   - Hold propanalol given hypotension
   - Discuss diuretics with liver team as apparently poor response in the
   past, will hold off for now given hypotension.
   # ARF: Presented with Cr 1.2 and now back to baseline (~0.9).  Likely
   [**12-30**] volume depletion in setting of sepsis and exacerbated by
   contrast-induced nephropathy although he did receive bicarb and
   mucomyst prior to CT.  Now resolved.
   - Trend Cr
   # ?Seizure: Unclear history of bowel/bladder incontinence which is new
   for patient, though he wears depends at baseline.  No focal neurologic
   deficits presently, but hypoglycemia may have contributed.
   - Seizure precautions.
   - Follow FSBS closely.
   - Ativan 2 mg IV push if seizure activity in absence of hypoglycemia.
   # HIV: CD4 300s, VL undetectable. Concern for elevated lactate [**12-30**] HIV
   meds; now trending down. Should also consider opportunistic pathogens.
   - Holding home HAART regimen for now.
   - F/u ID recs.
   # Pulmonary HTN: Not yet on sildenafil as outpatient.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2155-5-14**] 06:28 PM 20 mL/hour
   ADAT
   Glycemic Control:
   Lines:
   16 Gauge - [**2155-5-14**] 08:30 AM
   PICC Line - [**2155-5-14**] 04:44 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to [**Hospital Ward Name 408**] 10 vs. medicine